US09422290B2
N6-Benzyl-N8-[1-(2-methoxy-ethyl)-piperidin-4-yl]-3,N6-dimethyl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine III-3
N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine (0.05 g; 0.11 mmol) was slurred up in 0.3 ml DMA. 2-bromoethyl methyl ether (0.01 ml; 0.14 mmol) and DIPEA (0.04 ml; 0.23 mmol) were added and stirred at 50° C. for 16 hours. The crude material was purified by using reversed phase chromatography under basic conditions.

reactant | N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine | 0.11 mmol, 0.05 g | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCNCC2)C | C19H25N7
reactant | 2-bromoethyl methyl ether | 0.14 mmol, 0.01 ml | COCCBr | C3H7BrO
reactant | DIPEA | 0.23 mmol, 0.04 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 0.3 ml | CC(=O)N(C)C | C4H9NO
product | N6-Benzyl-N8-[1-(2-methoxy-ethyl)-piperidin-4-yl]-3,N6-dimethyl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCN(CC2)CCOC)C | C22H31N7O
